US08609680B2
Preparation of 2-(2-Methylimidazo[2,1-b][1,3,4]thiadiazol-6-yl)acetic acid (SM-1ae)
A mixture of 5-methyl-[1,3,4]thiadiazol-2-ylamine (300 mg, 2.6 mmol), 4-bromo-3-oxo-butyric acid ethyl ester (908 mg, 2.6 mmol) and 5 mL of MeOH was combined in a sealed tube and was heated to 80° C. for 3 hours. The reaction was cooled and the MeOH was removed in vacuo. The residue was dissolved in dichloromethane and the organic solution was washed with saturated aqueous NaHCO3 solution (2×). The organic solution was dried over sodium sulfate, filtered and concentrated. The crude product was purified by Combiflash (Teledyne ISCO, Lincoln, Nebr.) chromatography using 0-100% EtOAc/heptanes. Both the desired product and (2-methyl-imidazo[2,1-b][1,3,4]thiadiazol-6-ylyacetic acid methyl ester (formed by trans esterification with solvent MeOH) were obtained with a total mass of 333 mg (54%). The crude mixture was used directly in the next step

reactant | 5-methyl-[1,3,4]thiadiazol-2-ylamine | 2.6 mmol, 300 mg | CC1=NN=C(S1)N | C3H5N3S
reactant | 4-bromo-3-oxo-butyric acid ethyl ester | 2.6 mmol, 908 mg | C(C)OC(CC(CBr)=O)=O | C6H9BrO3
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(2-Methylimidazo[2,1-b][1,3,4]thiadiazol-6-yl)acetic acid | CC1=NN2C(S1)=NC(=C2)CC(=O)O | C7H7N3O2S
